US07790756B2
To a stirring solution of 5-chloro-2-(quinolin-6-yl)benzoic acid (0.201 g, 0.708 mmol) and TEA (0.148 ml, 1.06 mmol) in 1,4-dioxane (10 ml) at RT, was added DPPA (0.191 ml, 0.244 mmol). After stirring for 30 min at RT, 2,2,2-trichloroethanol (0.680 ml, 7.08 mmol) was added and the reaction was stirred with heating at 100° C. for 2 h. The completed reaction was diluted with brine (10 ml) and extracted with EtOAc (3×25 ml). The combined organics were washed with 5% citric acid (10 ml), sat'd. NaHCO3 (10 ml) and brine (10 ml), dried (MgSO4), concentrated in vacuo and purified by chromatography to afford 2,2,2-trichloroethyl 5-chloro-2-(quinolin-6-yl)phenylcarbamate (0.25 g, 82% yield) as a white solid. MS (ESI) m/z: 431.0 (M+H+).

reactant | 5-chloro-2-(quinolin-6-yl)benzoic acid | 0.708 mmol, 0.201 g | ClC=1C=CC(=C(C(=O)O)C1)C=1C=C2C=CC=NC2=CC1 | C16H10ClNO2
reactant | DPPA | 0.244 mmol, 0.191 ml | C=1C=CC(=CC1)P(=O)(C=2C=CC=CC2)N=[N+]=[N-] | C12H10N3OP
reactant | 2,2,2-trichloroethanol | 7.08 mmol, 0.680 ml | ClC(CO)(Cl)Cl | C2H3Cl3O
reactant | 1,4-dioxane | 10 ml | O1CCOCC1 | C4H8O2
solvent | brine | 10 ml | [Cl-].[Na+].O
product | 2,2,2-trichloroethyl 5-chloro-2-(quinolin-6-yl)phenylcarbamate | 0.25 g, 82% yield | ClC=1C=CC(=C(C1)NC(OCC(Cl)(Cl)Cl)=O)C=1C=C2C=CC=NC2=CC1 | C18H12Cl4N2O2
